US05310743
b) N-{5-(4-Chlorophenyl)pent-1-en-4-yl}-N-ethoxymethyl-3,5-dimethylbenzamide
2.36 ml (25.2 mmol) of chloromethyl ethyl ether are added in small portions over the course of 2 hours to a vigorously stirred solution of 5.5 g (16.8 mmol) of N-{5-(4-chlorophenyl)pent-1-en-4-yl}-3.5-dimethylbenzamide and 100 mg of benzyltributylammonium chloride in 15 ml of 50% strength aqueous sodium hydroxide solution and 15 ml of dichloromethane at 0°-50°. The organic phase is taken up in dichloromethane and water, the organic phase is separated off, dried over sodium sulfate and evaporated to dryness under reduced pressure. The oily residue is purified by chromatography on silica gel with ethyl acetate/hexane (1:4) as mobile phase; TLC (ethyl acetate/hexane; 1:3): Rf =0.50;

reactant | chloromethyl ethyl ether | 25.2 mmol, 2.36 ml | C(C)OCCl | C3H7ClO
reactant | N-{5-(4-chlorophenyl)pent-1-en-4-yl}-3.5-dimethylbenzamide | 16.8 mmol, 5.5 g | ClC1=CC=C(C=C1)CC(CC=C)NC(C1=CC(=CC(=C1)C)C)=O | C20H22ClNO
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | benzyltributylammonium chloride | 100 mg | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-{5-(4-Chlorophenyl)pent-1-en-4-yl}-N-ethoxymethyl-3,5-dimethylbenzamide | ClC1=CC=C(C=C1)CC(CC=C)N(C(C1=CC(=CC(=C1)C)C)=O)COCC | C23H28ClNO2
